US08748436B2
(b) {4-[5-(trans-2-Fluoro-cyclohexyloxy)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetic acid
98 mg of {4-[5-(trans-2-fluoro-cyclohexyloxy)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetic acid tert-butyl ester were dissolved in 3.5 ml of dichloromethane and treated with 1.5 ml of trifluoroacetic acid. After 16 h the mixture was concentrated and freeze-dried. 96 mg of the title compound were obtained.

reactant | {4-[5-(trans-2-fluoro-cyclohexyloxy)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetic acid tert-butyl ester | 98 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1C)C=1OC=2N=C(N=C(C2N1)OCCC)O[C@H]1[C@@H](CCCC1)F)C)=O | C28H36FN3O6
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
product | {4-[5-(trans-2-Fluoro-cyclohexyloxy)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetic acid | 96 mg | F[C@H]1[C@@H](CCCC1)OC=1N=C(C2=C(N1)OC(=N2)C2=CC(=C(OCC(=O)O)C(=C2)C)C)OCCC | C24H28FN3O6
